US04085116
To a solution of 9.25 parts of 6-methyl-4-oxo-4H-1-benzopyran-3-carbonitrile in a mixture of 100 parts by volume of acetic acid, 100 parts by volume of acetic anhydride and 10 parts by volume of 97% sulfuric acid kept at 5°-10° C, there was added 15.5 parts of chromium trioxide over a period of 4 hours under stirring. The reaction mixture was poured into 1500 parts by volume of ice-water to give precipitates, which were collected by filtration, washed with water and recrystallized from ethanol. The procedure yielded 8.19 parts of 6-diacetoxymethyl-4-oxo-4H-1-benzopyran-3-carbonitrile as colorless needles. Melting point: 185°-186° C

reactant | 6-methyl-4-oxo-4H-1-benzopyran-3-carbonitrile | CC=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C11H7NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 6-diacetoxymethyl-4-oxo-4H-1-benzopyran-3-carbonitrile | C(C)(=O)OC(C=1C=CC2=C(C(C(=CO2)C#N)=O)C1)OC(C)=O | C15H11NO6
